US08049016B2
Synthesis of (R)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-2-ylmethyl)thiazole-5-carboxamide
Following the procedure as described in Example 2, making variations as required to replace pyridin-3-ylmethanamine with pyridin-2-ylmethanamine and replace (S)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with (R)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid, the title compound was obtained as a white solid (48%): mp 118-119° C. (ethanol/water); 1H NMR (300 MHz, DMSO-d6) δ 8.54-8.50 (m, 2H), 7.79-7.75 (m, 1H), 7.40-7.16 (m, 6H), 4.60 (d, J=15.6 Hz, 1H), 4.49 (d, J=5.8 Hz, 2H), 4.31 (d, J=15.6 Hz, 1H), 4.20 (dd, J=10.0, 9.2 Hz, 1H), 3.79-3.72 (m, 1H), 3.56 (dd, J=10.0, 6.8 Hz, 1H), 2.49 (s, 3H), 1.23 (d, J=6.1 Hz, 3H); MS (ES+) m/z 439.9 (M+1).

reactant | pyridin-3-ylmethanamine | N1=CC(=CC=C1)CN | C6H8N2
reactant | pyridin-2-ylmethanamine | N1=C(C=CC=C1)CN | C6H8N2
reactant | (S)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2C(N(C[C@@H]2C)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C16H16FN3O3S
reactant | (R)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2C(N(C[C@H]2C)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C16H16FN3O3S
product | (R)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-2-ylmethyl)thiazole-5-carboxamide | FC1=CC=C(CN2C(N(C[C@H]2C)C=2SC(=C(N2)C)C(=O)NCC2=NC=CC=C2)=O)C=C1 | C22H22FN5O2S
